US04235918
3.9 g of 4-[4-chloro-3-(1-pyrrolidinylsulfonyl)-phenyl]-4-oxobutanoic acid are boiled under a reflux condenser in 50 ml of acetic anhydride for 1 hour, the solvent is driven off under reduced pressure and the residue is caused to crystallize under diisopropyl ether. 5-[4-Chloro-3-(1-pyrrolidinylsulfonyl)-phenyl]-2,3-dihydro-3-oxofuran is obtained in the form of light red-colored crystals of melting point 108°-111° C.

reactant | 4-[4-chloro-3-(1-pyrrolidinylsulfonyl)-phenyl]-4-oxobutanoic acid | 3.9 g | ClC1=C(C=C(C=C1)C(CCC(=O)O)=O)S(=O)(=O)N1CCCC1 | C14H16ClNO5S
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-[4-Chloro-3-(1-pyrrolidinylsulfonyl)-phenyl]-2,3-dihydro-3-oxofuran | ClC1=C(C=C(C=C1)C1=CC(CO1)=O)S(=O)(=O)N1CCCC1 | C14H14ClNO4S
